US07521062B2
To a slurry of LiAlH4 (4 equivalents) in dry THF, cooled to 0° C. under N2, was slowly added drop-wise a solution of methyl 4-[4-(1-BOC-piperazin-4-yl)phenoxymethyl]benzoate (1 equivalent) in dry THF. Once the addition was complete, the slurry was heated to reflux at 80° C. for 1 hour. The slurry was subsequently cooled to 0° C. and treated with water, 10% aq. NaOH and with water again. The resulting solids were filtered, and the filtrate was diluted with chloroform, washed with brine, dried over MgSO4 and concentrated, providing the crude 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzyl alcohol which was used without purification.

reactant | LiAlH4 | 4 equivalents | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | methyl 4-[4-(1-BOC-piperazin-4-yl)phenoxymethyl]benzoate | 1 equivalent | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=CC=C(OCC2=CC=C(C(=O)OC)C=C2)C=C1 | C24H30N2O5
reactant | water | O | H2O
reactant | NaOH | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 4-[4-(4-methylpiperazin-1-yl)phenoxymethyl]benzyl alcohol | CN1CCN(CC1)C1=CC=C(OCC2=CC=C(CO)C=C2)C=C1 | C19H24N2O2
